US07759045B2
Five parts of sodium 9,10-anthraquinone-1-sulfonate was dissolved in 400.0 parts of ion-exchanged water at 45° C. The obtained solution was, passed through a column packed with 6.9 parts of an ion-exchanged resin (DUOLITE C20) to obtain a solution containing 9,10-anthraquinone-1-sulfonic acid. To the obtained solution, 2.0 parts' of silver oxide was added and the resultant mixture was stirred over night. The mixture was filtrated to obtain 3.9 parts of silver 9,10-anthraquinone-1-sulfonate.

reactant | sodium 9,10-anthraquinone-1-sulfonate | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)S(=O)(=O)[O-].[Na+]
reactant | 9,10-anthraquinone-1-sulfonic acid | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)S(=O)(=O)O | C14H8O5S
reactant | silver oxide | [Ag]=O
solvent | water | O | H2O
product | silver 9,10-anthraquinone-1-sulfonate | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)S(=O)(=O)[O-].[Ag+] | InChI=1S/C14H8O5S.Ag/c15-13-8-4-1-2-5-9(8)14(16)12-10(13)6-3-7-11(12)20(17,18)19;/h1-7H,(H,17,18,19);/q;+1/p-1
